US06723744B2
Step B: Preparation of 5-(2,6-Dimethyl-4-nitro-phenoxy)-2-methoxy-benzaldehyde
To a solution of 4-(4-methoxy-phenoxy)-3,5-dimethyl-nitrobenzene (7.0 g, 25.6 mmol) in trifluoroacetic acid (60 mL) at room temperature was added hexamethylenetetramine (5.75 g, 41.0 mmol). The resulting mixture was stirred at 75° C. for 6 hours and then concentrated. To the residue was added water (150 mL), stirred at room temperature for 19 hours, extracted with 10% methanol in methylene chloride (4 times 50 mL) and ethyl acetate (75 mL). The combined organic extracts were dried over Na2SO4, filtered, and concentrated. The product (6.56 g) was crystalized from dissolving in a minimum amount of Et2O. 1H NMR (400 MHz, CDCl3) δ10.40 (s, 1H), 8.00 (s, 2H), 7.07-7.04 (s+d, 2H), 6.95 (d, 1H), 3.90 (s, 3H), 2.18 (s, 6H). MS (APCI−) Calc: 301.0, Found: 300.0 (M−1).

reactant | 4-(4-methoxy-phenoxy)-3,5-dimethyl-nitrobenzene | 25.6 mmol, 7.0 g | COC1=CC=C(OC2=C(C=C(C=C2C)[N+](=O)[O-])C)C=C1 | C15H15NO4
reactant | hexamethylenetetramine | 41.0 mmol, 5.75 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | trifluoroacetic acid | 60 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(2,6-Dimethyl-4-nitro-phenoxy)-2-methoxy-benzaldehyde | CC1=C(OC=2C=CC(=C(C=O)C2)OC)C(=CC(=C1)[N+](=O)[O-])C | C16H15NO5
